US07842830B2
[2-(3,4-Bis-dodecyloxy-phenyl)-[1,3]dithian-2-yl]-(4-iodo-phenyl)-methanol (JYC-II-020-A).
A solution of 2-(3,4-bis-dodecyloxy-phenyl)-[1,3]dithiane (12.0 g, 21.1 mmol) in 120 mL of dry THF in a Schlenk tube was cooled down to −78° C. Under N2 atmosphere, n-BuLi (9.4 mL of 2.5 M solution in hexanes, 23.4 mmol) was added dropwise to the mixture. After stirring at 0° C. for 1 h, the reaction mixture was cooled down to −78° C. and 4-iodobenzaldehyde (3.72 g, 16.0 mmol) in 100 mL of dry THF was added dropwise. The resulting mixture was allowed to warm up to room temperature and stirred at room temperature overnight. The reaction was quenched with H2O and THF was removed under reduced pressure. The resulting slurry was extracted with CH2Cl2 and the organic layer was washed with H2O and dried over anhydrous MgSO4. The solvent was removed under reduced pressure. The product was purified by column chromatography (silica gel, hexanes:dichloromethane=3:2, 1:1, then 2:3 (v/v)) to give light yellow oil (8.3 g, 65%). 1H NMR (300 MHz, CDCl3, δ): 7.44 (d, J=8.2 Hz, 2H), 7.23 (dd, J=8.5 Hz, 2.5 Hz, 1H), 7.02 (d, J=2.5 Hz, 1H), 6.78 (d, J=8.5 Hz, 1H), 6.61 (d, J=8.5 Hz, 2H), 4.84 (s, 1H), 3.98 (t, J=6.6 Hz, 2H), 3.73 (m, 2H), 3.00 (s, 1H), 2.69 (m, 4H), 1.66-1.94 (m, 6H), 1.20-1.51 (m, 36H), 0.86 (t, J=6.7 Hz, 6H). 13C{1H} NMR (75 MHz, CDCl3, δ): 148.40, 148.31, 136.96, 135.88, 130.04, 128.93, 122.95, 115.99, 112.55, 93.82, 80.51, 69.29, 69.05, 66.33, 32.00, 29.78, 29.72, 29.55, 29.45, 29.32, 29.29, 27.41, 27.02, 26.12, 24.80, 22.78, 14.24. LRMS-EI (m/z): [M−H2O]+ calcd for C41H63IO2S2, 778.3; found, 778.5.

reactant | 2-(3,4-bis-dodecyloxy-phenyl)-[1,3]dithiane | 21.1 mmol, 12.0 g | C(CCCCCCCCCCC)OC=1C=C(C=CC1OCCCCCCCCCCCC)C1SCCCS1 | C34H60O2S2
reactant | n-BuLi | 23.4 mmol, 2.5 M, 9.4 mL | [Li]CCCC
reactant | 4-iodobenzaldehyde | 16.0 mmol, 3.72 g | IC1=CC=C(C=O)C=C1 | C7H5IO
solvent | THF | 120 mL | C1CCOC1 | C4H8O
solvent | THF | 100 mL | C1CCOC1 | C4H8O
product | [2-(3,4-Bis-dodecyloxy-phenyl)-[1,3]dithian-2-yl]-(4-iodo-phenyl)-methanol | 8.3 g, 65% | C(CCCCCCCCCCC)OC=1C=C(C=CC1OCCCCCCCCCCCC)C1(SCCCS1)C(O)C1=CC=C(C=C1)I | C41H65IO3S2
